US07872138B2
6-Methoxytetrahydroisoquinoline HCl salt
Bis(6-methoxy-3,4-dihydroisoquinolin-2(1H)-yl)methane, prepared as in Example 1 above (213.4 g, 0.63 mol) was suspended in IPA (1.06 L), to which a concentrated aqueous HCl solution (140.4 g, 36% wt., 1.38 mol) was added slowly. Most of the solids were dissolved immediately after the addition of HCl. A solid was re-precipitated in a few seconds afterwards. The resulting suspension was stirred at room temperature for 18 hours. MTBE (530 mL) was added and the suspension was stirred at room temperature for an additional 4 hours. The solid was filtered, rinsed with a 1:1 mixture of MTBE:IPA (100 mL), and then air-dried. The title compound was obtained as a white solid.

reactant | Bis(6-methoxy-3,4-dihydroisoquinolin-2(1H)-yl)methane | COC=1C=C2CCN(CC2=CC1)CN1CC2=CC=C(C=C2CC1)OC | C21H26N2O2
reactant | HCl | 1.38 mol, 140.4 g | Cl | ClH
solvent | IPA | 1.06 L | CC(C)O | C3H8O
product | 6-Methoxytetrahydroisoquinoline HCl salt | Cl.COC=1C=C2CCNCC2=CC1 | InChI=1S/C10H13NO.ClH/c1-12-10-3-2-9-7-11-5-4-8(9)6-10;/h2-3,6,11H,4-5,7H2,1H3;1H
